US08044052B2
4-{3-[(5-fluoropyridin-2-yl)oxy]benzylidene}-N-pyridazin-3-ylpiperidine-1-carboxamide
A solution of 5-fluoro-2-(3-(piperidin-4-ylidenemethyl)phenoxy)pyridine trifluoroacetate (0.466 g), phenyl pyridazin-3-ylcarbamate (0.274 g, 1.40 equiv), and triethylamine (0.634 mL, 5.00 equiv) in dimethyl sulfoxide (2.0 mL, 0.30 M) was heated to 65° C. for 2 h. The reaction was cooled to room temperature. Water was added and then the solution was extracted with ethyl acetate (3 times). The organic extracts were combined and washed with water, dried over magnesium sulfate, filtered, and concentrated. The residue was purified on a 12 g silica gel column using 20-50% ethyl acetate/dichloromethane over 60 minutes as the eluent to give the title compound as a yellow foam. 0.155 g, 42% yield. 1H NMR (400 MHz, CDCl3) δ ppm 2.46 (2H, t, J=5.5 Hz), 2.59 (2H, t, J=5.5 Hz), 3.61 (2H, t, J=5.8 Hz), 3.71 (2H, t, J=5.8 Hz), 6.39 (1H, s), 6.84-6.99 (3H, m), 7.02 (1H, d, J=7.8 Hz), 7.34 (1H, t, J=7.8 Hz), 7.39-7.54 (2H, m), 8.02 (1H, d, J=3.1 Hz), 8.47 (1H, d, J=8.6 Hz), 8.74 (1H, d, J=3.5 Hz).

reactant | 5-fluoro-2-(3-(piperidin-4-ylidenemethyl)phenoxy)pyridine trifluoroacetate | 0.466 g | FC(C(=O)O)(F)F.FC=1C=CC(=NC1)OC1=CC(=CC=C1)C=C1CCNCC1
reactant | phenyl pyridazin-3-ylcarbamate | 0.274 g, 1.40 equiv | N1=NC(=CC=C1)NC(OC1=CC=CC=C1)=O | C11H9N3O2
reactant | triethylamine | 0.634 mL, 5.00 equiv | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 0.30 M, 2.0 mL | CS(=O)C | C2H6OS
product | 4-{3-[(5-fluoropyridin-2-yl)oxy]benzylidene}-N-pyridazin-3-ylpiperidine-1-carboxamide | 42% yield | FC=1C=CC(=NC1)OC=1C=C(C=C2CCN(CC2)C(=O)NC=2N=NC=CC2)C=CC1 | C22H20FN5O2
